US07557131B2
Preparation 76: 3-Hydroxy-N,N,2-trimethylbenzamide
The title compound was prepared from 3-hydroxy-2-methylbenzoic acid and dimethylamine, using the same method as that described for preparation 75, as a solid in 42% yield. 1H NMR(400 MHz, CDCl3) δ: 1.95(s, 3H), 2.70(s, 3H), 2.95(s, 3H), 6.55(d, 1H), 6.80 (d, 1H), 7.00(m, 1H), 9.50(s, 1H); LRMS APCI m/z 180 [M+H]+

reactant | 3-hydroxy-2-methylbenzoic acid | OC=1C(=C(C(=O)O)C=CC1)C | C8H8O3
reactant | dimethylamine | CNC | C2H7N
product | 3-Hydroxy-N,N,2-trimethylbenzamide | 42% yield | OC=1C(=C(C(=O)N(C)C)C=CC1)C | C10H13NO2
